US05071858
1-[(6-Fluoro-3,4-dihydro-2H-1-benzothiopyran-3-yl)methyl]-4-piperidinyl p-fluorophenyl ketone
To a suspension of 2.178 kg (10.5 mol) p-fluorophenyl 4-piperidinyl ketone hydrochloride (R. L. Duncan et al., J. Med. Chem. 13, 1 (1970)), 1.008 kg (9.96 mol) triethylamine and 25 1 dimethylformamide is added a solution of 3.053 kg (9.9 mol) (6-fluoro-3,4-dihydro-2H-1-benzothiopyran-3-yl)methyl iodide in 9 1 dimethylformamide with stirring at 23° C. over 45 min. The suspension is stirred for 3 days at ambient temperature. The reaction is filtered and the filtrate concentrated at 80° C./4 mbar. The resulting oil is poured into a mixture of 20 1 water and 24 1 ethyl acetate, cooled to 5° C. and basified to pH 10 with concentrated ammonium hydroxide. The organic layer is separated, the aqueous solution extracted further with ethyl acetate, and the combined organic solutions washed with water and brine, dried over sodium sulfate and activated carbon, filtered, and concentrated at 50° C./ 4 mbar. The residue is triturated with heptane, filtered, washed twice with heptane, dried in vacuo and dissolved in dichloromethane. The solution is filtered from the insolubles, stirred with 1.27 kg Kieselgel 60 for 30 min., then filtered and evaporated at 45° C./4 mbar to give the title compound as a solid, m.p. 121°-124° C.

reactant | p-fluorophenyl 4-piperidinyl ketone hydrochloride | 10.5 mol, 2.178 kg | Cl.N1CCC(CC1)C(=O)C1=CC=C(C=C1)F
reactant | triethylamine | 9.96 mol, 1.008 kg | C(C)N(CC)CC | C6H15N
reactant | (6-fluoro-3,4-dihydro-2H-1-benzothiopyran-3-yl)methyl iodide | 9.9 mol, 3.053 kg | FC=1C=CC2=C(CC(CS2)CI)C1 | C10H10FIS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[(6-Fluoro-3,4-dihydro-2H-1-benzothiopyran-3-yl)methyl]-4-piperidinyl p-fluorophenyl ketone | FC1=CC=C(C=C1)C(=O)C1CCN(CC1)CC1CSC2=C(C1)C=C(C=C2)F | C22H23F2NOS
